US06498154B1
9H-Fluoren-9-ylmethyl-6-[1-(tert-butoxycarbonyl)-5-cyano-1H-pyrrol-2-yl]-2,4,4-trimethyl-2H-3,1-benzoxazine-1(4H)-carboxylate
Using the procedure for Example 18, the title compound (0.8 g, 65%) was prepared from 9H-fluoren-9-ylmethyl-6-[1-(tert-butoxycarbonyl)-1H-pyrrol-2-yl]-2,4,4-trimethyl-2H-3,1-benzoxazine-1(4H)carboxylate (1.2 g, 2.1 mmol) and chlorosulfonyl isocyanate (0.28 mL, 3.1 mmol). A white solid: mp 135-136° C.; 1H-NMR (DMSO-d6) δ 7.90 (t, 2H, J=6.7 Hz), 7.64 (d, 1H, J=7.5 Hz), 7.59 (d, 1H, J=7.1 Hz), 7.40 (td, 2H, J=7.2, 2.0 Hz), 7.31-7.34 (m, 3H), 7.29 (d, 1H, J=1.2 Hz), 7.04-7.09 (m, 2H), 6.44 (d, 1H, J=3.57 Hz), 5.30 (q, 1H, J=5.6 Hz), 4.86 (dd, 1H, J=10.7, 5.2 Hz), 4.64 (dd, 1H, J=10.8, 5.2 Hz), 4.33 (t, 1H, J=4.7 Hz). 1.50 (s, 3H), 1.30 (s, 9H), 1.20 (s, 3H), 1.03 (d, 3H, J=5.6 Hz); MS (ESI) m/z 590 [M+H]+.

reactant | 9H-fluoren-9-ylmethyl-6-[1-(tert-butoxycarbonyl)-1H-pyrrol-2-yl]-2,4,4-trimethyl-2H-3,1-benzoxazine-1(4H)carboxylate | 2.1 mmol, 1.2 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1C(OC(C2=C1C=CC(=C2)C=2N(C=CC2)C(=O)OC(C)(C)C)(C)C)C | C35H36N2O5
reactant | chlorosulfonyl isocyanate | 3.1 mmol, 0.28 mL | ClS(=O)(=O)N=C=O | CClNO3S
product | 9H-Fluoren-9-ylmethyl-6-[1-(tert-butoxycarbonyl)-5-cyano-1H-pyrrol-2-yl]-2,4,4-trimethyl-2H-3,1-benzoxazine-1(4H)-carboxylate | 0.8 g, 65% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1C(OC(C2=C1C=CC(=C2)C=2N(C(=CC2)C#N)C(=O)OC(C)(C)C)(C)C)C | C36H35N3O5
